US06596734B1
N-[1-(3,5-dibromo-4-methoxy-benzyl)-6-hydroxy-1,2,3,4-tetrahydro-isoquinolin-7-yl]-benzenesulfonamide hydrochloride.
N-[6-benzyloxy-1-(3,5-dibromo-4-methoxy-benzyl)-1,2,3,4-tetrahydro-isoquinolin-7-yl]-benzenesulfonamide oxalate (0.389 g, 0.00051 mol) was neutralized in a mixture 1N NaOH-methylene chloride. A free base was dissolved in a methanol—conc. HCl mixture (35 mL of each). The reaction mixture was refluxed for 1h and evaporated. HCl salt was neutralized with conc. NaHCO3 solution. The product was purified by column chromatography (silica gel, chloroform-methanol—aq. ammonia/100:10:1) and dissolved in methanol, a solution of fumaric acid in methanol was added. A fumaric salt was crystallized from methanol—ethyl ether mixture.

reactant | N-[6-benzyloxy-1-(3,5-dibromo-4-methoxy-benzyl)-1,2,3,4-tetrahydro-isoquinolin-7-yl]-benzenesulfonamide oxalate | 0.00051 mol, 0.389 g | C(C(=O)O)(=O)O.C(C1=CC=CC=C1)OC=1C=C2CCNC(C2=CC1NS(=O)(=O)C1=CC=CC=C1)CC1=CC(=C(C(=C1)Br)OC)Br
reactant | NaOH methylene chloride | [OH-].[Na+].C(Cl)Cl
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | N-[1-(3,5-dibromo-4-methoxy-benzyl)-6-hydroxy-1,2,3,4-tetrahydro-isoquinolin-7-yl]-benzenesulfonamide hydrochloride | Cl.BrC=1C=C(CC2NCCC3=CC(=C(C=C23)NS(=O)(=O)C2=CC=CC=C2)O)C=C(C1OC)Br | InChI=1S/C23H22Br2N2O4S.ClH/c1-31-23-18(24)9-14(10-19(23)25)11-20-17-13-21(22(28)12-15(17)7-8-26-20)27-32(29,30)16-5-3-2-4-6-16;/h2-6,9-10,12-13,20,26-28H,7-8,11H2,1H3;1H
